US05859014
A mixture of the 1-cyanocycloprop-1-ylmethyl methanesulfonate and DMF (78 mL) was added to a mixture of 1-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione (9.1 g, 42.2 mmol), 60% sodium hydride (1.95 g, 48.8 mmol) and DMF (117 mL) at 0° to 5° C. The mixture was heated 20 hours at 45° to 55° C., then diluted with water (20 mL) and saturated ammonium chloride (20 mL) and extracted with ethyl acetate. The extract was washed with water and then brine, dried (MgSO4) and concentrated to dryness. The residue was purified by flash chromatography on silica gel eluting with hexane/ethyl acetate (1:1) to give 1-benzyl-3-(1-cyanocycloprop-1-ylmethyl)-5-methyl-2,4(1H,3H)-pyrimidinedione (10.4 g, 35.2 mmol).

reactant | 1-cyanocycloprop-1-ylmethyl methanesulfonate | CS(=O)(=O)OCC1(CC1)C#N | C6H9NO3S
reactant | DMF | 78 mL | CN(C)C=O | C3H7NO
reactant | 1-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione | 42.2 mmol, 9.1 g | C(C1=CC=CC=C1)N1C(NC(C(=C1)C)=O)=O | C12H12N2O2
reactant | sodium hydride | 48.8 mmol, 1.95 g | [H-].[Na+]
reactant | DMF | 117 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
solvent | ammonium chloride | 20 mL | [Cl-].[NH4+]
product | 1-benzyl-3-(1-cyanocycloprop-1-ylmethyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | 35.2 mmol, 10.4 g | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C)=O)CC1(CC1)C#N)=O | C17H17N3O2
